US06048880
3-Methyl-4-oxo-4,5,6,7-tetrahydrobenzofuran (step 1)
A mixture of 1,3-cyclohexanedione (3.36 g, 30 mmol), acetol (hydroxyacetone; 2.22 g, 30 mmol), and zinc chloride (4.09 g, 30 mmol) in ethanol (10 mL) was heated at reflux temperature for 3 hours. After cooling, the mixture was dissolved in ethyl acetate (100 mL). The whole was washed with water (100 mL), brine (100 mL), dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chlomatography eluting with ethyl acetate - hexane (1:10) to give the subtitle compound (1.69 g, 38% yield).

reactant | 1,3-cyclohexanedione | 30 mmol, 3.36 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | acetol | 30 mmol, 2.22 g | CC(=O)CO | C3H6O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 30 mmol, 4.09 g | [Cl-].[Zn+2].[Cl-]
product | 3-Methyl-4-oxo-4,5,6,7-tetrahydrobenzofuran | 1.69 g, 38% yield | CC1=COC2=C1C(CCC2)=O | C9H10O2
